US03966773
Preparation of 3-triphenylmethoxy-cis-oct-5-en-1-yne
Treatment of 22 g. of cis-oct-5-en-1-yne-3-ol, prepared according to the procedure of J. Fried, C. H. Lin, J. C. Sih, P. Dalven, G. F. Cooper, J. Amer. Chem. Soc., 94, 4342 (1972), with 58 g. of triphenylmethyl bromide in 100 ml. of pyridine and purification on Florisil, all as described in Example 728 gives the title compound.

reactant | cis-oct-5-en-1-yne-3-ol | C#CC(C\C=C/CC)O | C8H12O
reactant | triphenylmethyl bromide | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
product | 3-triphenylmethoxy-cis-oct-5-en-1-yne | C1(=CC=CC=C1)C(OC(C#C)C\C=C/CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26O
